US06784192B2
1-Benzyl-4-(2,3-methylenedioxyphenethyl)piperidine
20.3 g of 4-(1-benzyl)piperidinecarboxaldehyde and 48.0 g of (2,3-methylenedioxybenzyl)triphenylphosphonium bromide and 12.0 g of potassium tert-butoxide were suspended in 200 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for one hour. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by NH form silica gel column chromatography (ethyl acetate:hexane=1:4). The resulting product and 2.03 g of 10% palladium-carbon powder (water-containing product) were suspended in 200 ml of ethanol. After replacing the atmosphere of a container with hydrogen, the mixture was stirred at room temperature under ordinary atmosphere for two hours. The reaction solution was filtered, and the filtrate was evaporated, to give 20.3 g of the title compound as a colorless oil.

reactant | (2,3-methylenedioxybenzyl)triphenylphosphonium bromide | 48.0 g | [Br-].C1OC2=C(C[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2O1
reactant | potassium tert-butoxide | 12.0 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 2.03 g | [C].[Pd]
product | 1-Benzyl-4-(2,3-methylenedioxyphenethyl)piperidine | 20.3 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC1=C2C(=CC=C1)OCO2 | C21H25NO2
